US08202873B2
Dissolve 4-(2-chloropyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester (0.9 g, 3.0 mmol) in a mixture of 5 mL 1,2 dimethoxyethane and 4 mL water. Add 2-fluorophenylboronic acid (0.51 g, 3.64 mmol) followed by tetrakis(triphenylphosphine) palladium(0) (0.35 g, 0.30 mmol), and potassium carbonate (1.13 g, 8.2 mmol). Heat the reaction mixture at 100° C. for 22 hr. Cool to room temperature, concentrate and partition the residue between ethyl acetate and water. Extract water layer with ethyl acetate. Wash combined organic layers with brine. Dry organic extracts (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 10:90 to 30:70 ethyl acetate:hexanes), to give 4-[2-(2-Fluoro-phenyl)-pyridin-3-yl]-piperazine-1-carboxylic acid t-butyl ester (91%). MS (ES): m/z=358 [M+H]+.

reactant | 4-(2-chloropyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester | 3.0 mmol, 0.9 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CC1)Cl | C14H20ClN3O2
reactant | 2-fluorophenylboronic acid | 3.64 mmol, 0.51 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 8.2 mmol, 1.13 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2 dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.30 mmol, 0.35 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[2-(2-Fluoro-phenyl)-pyridin-3-yl]-piperazine-1-carboxylic acid t-butyl ester | 91% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CC1)C1=C(C=CC=C1)F | C20H24FN3O2
